US04153719
4-Styrylbenzyl bromide was prepared from 35.4 g. of 4-methylstilbene and 35.6 g. of N-bromosuccinimide in carbon tetrachloride according to the procedure of Example 8(a); yield 35.5 g., m.p. 125°-127° C. after recrystallization from benzene-cyclohexane and acetonitrile.

reactant | 4-methylstilbene | CC1=CC=C(C=C1)C=CC1=CC=CC=C1 | C15H14
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Styrylbenzyl bromide | C(=CC1=CC=CC=C1)C1=CC=C(CBr)C=C1 | C15H13Br
